US07687502B2
[6-(3-Cyanopyridin-2-yloxy)-quinazolin-4-yl]-thiazolo[5,4-b]pyridin-2-yl-amine
The compound of Example 80 was manufactured by the same method as in Example 95, by a similar method thereto or by a combination of such a method with a conventional method using 3-cyano-2-chloropyridine, thiazolo[5,4-b]pyridin-2-yl-amine and 4-chloro-6-hydroxy-quinazoline.

reactant | 3-cyano-2-chloropyridine | C(#N)C=1C(=NC=CC1)Cl | C6H3ClN2
reactant | thiazolo[5,4-b]pyridin-2-yl-amine | N1=C(SC2=NC=CC=C21)N | C6H5N3S
reactant | 4-chloro-6-hydroxy-quinazoline | ClC1=NC=NC2=CC=C(C=C12)O | C8H5ClN2O
product | [6-(3-Cyanopyridin-2-yloxy)-quinazolin-4-yl]-thiazolo[5,4-b]pyridin-2-yl-amine | C(#N)C=1C(=NC=CC1)OC=1C=C2C(=NC=NC2=CC1)NC=1SC2=NC=CC=C2N1 | C20H11N7OS
